US08314100B2
1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,4,5-trimethoxyphenyl)piperazine (Compound 6)
Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate and 1-(3,4,5-trimethoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound (yield, 76%). 1H NMR (200 MHz, CDCl3): δ 3.22 (s, 4H), 3.79-3.85 (m, 12H), 4.13 (s, 4H), 6.19 (s, 2H), 7.20-7.34 (m, 1H), 7.35-7.36 (m, 1H), 7.44 (s, 1H), 7.67-7.70 (m, 1H).

reactant | Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12FN3O3
reactant | 1-(3,4,5-trimethoxyphenyl)piperazine | COC=1C=C(C=C(C1OC)OC)N1CCNCC1 | C13H20N2O3
product | 1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,4,5-trimethoxyphenyl)piperazine | 76% | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=CC(=C(C(=C1)OC)OC)OC | C23H26FN5O5
